US06924391B2
Trans-4-[4-(tert-butoxycarbonyl)phenoxy]-2-butene
A solution of 1,1-dimethylethyl 4-hydroxybenzoate (3.68 g, 18.9 mol) and 2-buten-1-ol (1.37 g, 18.9 mol) in dry benzene (100 ml) at 22° C. was treated with triphenylphosphine (5.48 g, 20.9 mmol) followed by a solution of diisopropyl azodicarboxylate (4.22 g, 20.9 mmol) in dry benzene (10 ml) added dropwise over 7 minutes. After 3 hours at 22° C., the solvent was concentrated under reduced pressure and the residue was chromatographed on silica gel. Elution with a mixture of toluene and ethyl acetate (99:1) gave 3.70 g (79%) of the title material as a clear oil: bp 85-90° C./0.1 torr (bulb to bulb, air bath temperature).

reactant | 1,1-dimethylethyl 4-hydroxybenzoate | 18.9 mol, 3.68 g | OC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C11H14O3
reactant | 2-buten-1-ol | 18.9 mol, 1.37 g | C(C=CC)O | C4H8O
reactant | triphenylphosphine | 20.9 mmol, 5.48 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 20.9 mmol, 4.22 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | Trans-4-[4-(tert-butoxycarbonyl)phenoxy]-2-butene | 3.70 g, 79% | C(C)(C)(C)OC(=O)C1=CC=C(OC/C=C/C)C=C1 | C15H20O3
